US07816522B2
(178a) 4-(t-butyldimethylsilanyloxy)-2-fluoro-5-methoxybenzaldehyde
The same procedure was carried out as in Example (4a), except that 2-fluoro-4-hydroxy-5-methoxybenzaldehyde [CAS No. 79418-77-2] and t-butylchlorodimethylsilane were used instead of respectively the 3-hydroxy-5-methoxybenzaldehyde and chlorotriisopropylsilane, to give the title compound as a colorless oil.

reactant | 2-fluoro-4-hydroxy-5-methoxybenzaldehyde | FC1=C(C=O)C=C(C(=C1)O)OC | C8H7FO3
reactant | t-butylchlorodimethylsilane | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 3-hydroxy-5-methoxybenzaldehyde | OC=1C=C(C=O)C=C(C1)OC | C8H8O3
reactant | chlorotriisopropylsilane | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
product | 4-(t-butyldimethylsilanyloxy)-2-fluoro-5-methoxybenzaldehyde | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=O)C=C1OC)F | C14H21FO3Si
